US06849622B2
In water was dissolved 5.0 g of trans-4-ethoxycarbonylcyclohexylamine.dihydrochloride, and after the solution was made basic by adding potassium carbonate, the solution was extracted with chloroform. The extract was washed with brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. A mixture of the residue, 5.1 g of p-toluensulfonic acid monohydrate and 50 ml of allyl alcohol was refluxed for 48 hours. The reaction mixture was concentrated, and then, diluted with chloroform. The chloroform solution was washed with an aqueous potassium carbonate solution, water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (solvent: chloroform-methanol-aqueous ammonia (500:10:1)) to obtain 3.29 g of trans-4-(2-propenyloxycarbonyl)cyclohexylamine.

reactant | trans-4-ethoxycarbonylcyclohexylamine.dihydrochloride | 5.0 g | Cl.Cl.C(C)OC(=O)[C@@H]1CC[C@H](CC1)N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | trans-4-(2-propenyloxycarbonyl)cyclohexylamine | 3.29 g | C(C=C)OC(=O)[C@@H]1CC[C@H](CC1)N | C10H17NO2
